US05532235
6,7,8,9-Tetrahydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrido[3,2-b]azepine
A mixture of 3.31 g of 6,7,8,9-tetrahydro-5-(2-chloro-4-nitrobenzoyl)-5H-pyrido[3,2-b]azepine and 6.78 g of stannus chloride dihydrate (SnCl2.2H2O) in 200 ml of methanol is refluxed for 2 hours under argon. The solvent is removed under vacuum and 5 ml of saturated NaHCO3 solution and solid NaHCO3 added to bring the pH to 7. The mixture is extracted with ethyl acetate, the extract filtered through diatomaceous earth and the filtrate washed with saturated NaHCO3, H2O, brine and dried (Na2SO4). The filtrate is passed through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness to give 2.58 g of an amorphous solid. Anal. Calc'd for C16H16ClN3O; C,59.9; H,5.7; N,13.1; C1, 11.1 Found: C,60.5; H,5.0; N,12.9; Cl,11.6.

reactant | 6,7,8,9-tetrahydro-5-(2-chloro-4-nitrobenzoyl)-5H-pyrido[3,2-b]azepine | 3.31 g | ClC1=C(C(=O)N2C3=C(CCCC2)N=CC=C3)C=CC(=C1)[N+](=O)[O-] | C16H14ClN3O3
reactant | chloride dihydrate | 6.78 g | O.O.[Cl-]
solvent | methanol | 200 ml | CO | CH4O
product | 6,7,8,9-Tetrahydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrido[3,2-b]azepine | 2.58 g | NC1=CC(=C(C(=O)N2C3=C(CCCC2)N=CC=C3)C=C1)Cl | C16H16ClN3O
